US04051252
Analogously to Example 1, 0.1 mol of 3.7-diamino-5-trifluoromethylindazole in 70 ml of pyrocarbonic acid diethyl ester gives 3,7-diamino-5-trifluoromethylindazole-2-carboxylic acid ethyl ester (melting point: 193°-194° C; 90% of theory) in 1 hour at 20°-30° C.

reactant | 3,7-diamino-5-trifluoromethylindazole-2-carboxylic acid ethyl ester | C(C)OC(=O)N1N=C2C(=CC(=CC2=C1N)C(F)(F)F)N | C11H11F3N4O2
solvent | pyrocarbonic acid diethyl ester | 70 ml | C(C)OC(=O)OC(=O)OCC | C6H10O5
product | 3.7-diamino-5-trifluoromethylindazole | 0.1 mol | NC1=NNC2=C(C=C(C=C12)C(F)(F)F)N | C8H7F3N4
